Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with CAD s/p NSTEMI ___ (no stents), ESRD due 
to reflux nephropathy s/p DDRT ___ on prednisone & sirolimus, 
AIN (presumably ranitidine), chronic pain, and recurrent UTIs 
who presents with AMS, UTI, and ___ on CKD. Pt is too altered to 
provide meaningful history, but does complain of abdominal pain 
and R flank pain. She has poor short-term memory. Her home 
health aid is accompanying patient, but doesn't know if she's 
had nausea/vomiting, diarrhea, cough, fevers, or decreased urine 
output. She does note that the patient is normally oriented to 
place and self, but today has been more confused.
 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic  
reflux nephropathy, on prednisone and sirolimus; baseline Cr  
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  
___. HTN  
14. H/o DVT  
15. Anemia  
16. Panic disorder  
17. Polyneuropathy in renal disease  
18. Diastolic dysfunction  
19. Hypothyroidism  
20. Chronic low back pain  
21. Hearing loss of both ears  
22. Recent small intestinal adenoma with endoscopic resection 
c/b bowel performation requiring ex-lap in ___  
23. Recurrent colitis due to Clostridium difficile  
24. UTI (lower urinary tract infection)  
 
 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
Admission Exam:
GENERAL: Alert and oriented x 3, NAD
HEENT: AT/NC, anicteric sclera, MMM,
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi  
ABDOMEN: Obese, soft, ND. +BS, mild tenderness to palpation in 
RLQ
EXTREMITIES: no edema
PULSES: 2+ DP pulses bilaterally  
NEURO: Moving all extremities with purpose, no facial asymmetry  

SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge Exam
 97.7 109/62 76 20 98 %RA
 GENERAL: Alert and oriented x 3, NAD
 HEENT: AT/NC, anicteric sclera, MMM,
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: Obese, soft, ND. +BS, mild tenderness to palpation in 
RLQ
 EXTREMITIES: no edema
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Moving all extremities with purpose, no facial asymmetry 
 
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
___ 06:56AM BLOOD WBC-5.8 RBC-3.01* Hgb-8.1* Hct-27.2* 
MCV-90 MCH-26.9 MCHC-29.8* RDW-17.7* RDWSD-58.6* Plt ___
___ 06:56AM BLOOD Glucose-185* UreaN-22* Creat-1.4* Na-142 
K-3.5 Cl-110* HCO3-22 AnGap-14
___ 06:56AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.6
___ 03:43PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 03:43PM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-LG
___ 03:43PM URINE RBC-5* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-1
___ 03:43PM URINE WBC Clm-MANY
___ 03:43PM URINE Hours-RANDOM UreaN-535 Creat-148 Na-22 
K-30 Cl-16
___ 03:43PM URINE Osmolal-395
___ 03:43PM URINE bnzodzp-POS

___ 07:00AM BLOOD TSH-0.52
___ 07:00AM BLOOD Cortsol-3.9
___ 06:56AM BLOOD tacroFK-7.3

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
___ year old woman s/p renal transplant in ___ on prednisone and 
tacrolimus, chronic pain, CAD s/p NSTEMI ___ (no stent), hx of 
recurrent UTIs, admitted with AMS, ___, and UTI.  

#Pyelonephritis: AMS, abdominal pain, UA and UCx with evidence 
of infection. Given UTI in context of renal translplant, pt was 
treated for pyelonephritis. Empiric treatment with IV 
ciprofloxacin started on admission. Urine culture grew E. Coli 
resistant to ciprofloxacin, sensitive to ceftriaxone. 
Antibiotics changed to IV ceftriaxone on ___. Transitioned to 
PO Cefpodoxime at discharge on ___ to complete a 14day course 
(___). Blood cultures all negative at time of discharge. 

#Hypotension: Patient developed hypotension while in the 
hospital with blood pressures in ___. DDx included 
hypovolemia, adrenal insufficiency, worsening infection. 
Inappropriately low/normal AM cortisol (3.9) and lack of 
improvement with fluids on HOD#3 suggested adrenal insufficiency 
more likely. Pt started on stress dose hydrocortisone on HOD#4 
(___) with good improvement in BP. Pt was given a 30mg PO dose 
of prednisone prior to discharge to finish stress dose course. 
Discharging to home on home-dose prednisone (5mg QD)

# ___ on CKD: Cre 2.1 on admission, from baseline 1.3-1.5. This 
was likely pre-renal in the setting of infection and poor PO 
intake. Improved with fluids/abx. Cre back to baseline at 1.5 
(___) and 1.4 (___) at discharge.

# Hypoxia: Patient was started on 2L NC on admission. CXR 
unremarkable. Lung exam overall unremarkable. Patient was weaned 
off O2 and discharged to home on room air.  

CHRONIC ISSUES:  
 # s/p renal transplant in ___: Patent renal vasculature on 
ultrasound. Patient was continued on her home medications. 
Tacrolimus was held for a dose, but restarted prior to 
discharge. Home dose prednisone and acyclovir were continued. 
Her home fluconazole was stopped and NOT restarted at discharge 
per renal transplant team recs.  
 # CAD: s/p NSTEMI ___ (no stent): Patient was continued on 
home aspirin and statin. Her home metoprolol was fractionated to 
tartrate 25mg PO q6h and then dose reduced to 12.5mg PO Q6H due 
to hypotension during admission. Prior to discharge she was 
restarted an Toprol XL at half of her home dose (50mg PO QD). 
 # Hypothyroidism: Patient was continued on home levothyroxine.  
 
 # Diabetes: last A1c 6.2 ___. No issues during admission. 
Diet-controlled. 
 # Chronic pain: on oxycodone 5 mg q6H PRN at home. This was 
continued during admission and at discharge. 
 # Anxiety: on clonazepam PRN at home  
 # GERD: Continued home omeprazole  
 # bone health: Continued home calcitriol  

Transitional Issues:
-Cefpodoxime 200mg BID for UTI for 14 day course (last day 
___ 
-Stress dose steroids: Patient with soft pressures so started on 
hydrocort 100mg q8 for 3 days. Was given 30mg of prednisone on 
day of discharge to finish 3 day course of stress dose steroids. 
Patient will go back to home dose of 5mg daily on discharge. 
-Home fluconazole stopped on this admission and NOT restarted on 
discharge per renal transplant team
-Metoprolol XL decreased from 100mg daily to 50mg daily on 
discharge for soft pressures. Consider retitrating after active 
infection resolved.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Fluconazole 200 mg PO Q24H 
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Omeprazole 40 mg PO DAILY 
9. PredniSONE 5 mg PO DAILY 
10. Rosuvastatin Calcium 40 mg PO QPM 
11. Tacrolimus 0.5 mg PO Q12H 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
13. diclofenac sodium 1 % TOPICAL QID 
14. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Omeprazole 40 mg PO DAILY 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
9. PredniSONE 5 mg PO DAILY 
10. Rosuvastatin Calcium 40 mg PO QPM 
11. Tacrolimus 0.5 mg PO Q12H 
12. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*180 Tablet Refills:*0
13. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 11 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every 12 hours Disp 
#*23 Tablet Refills:*0
14. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
15. diclofenac sodium 1 % TOPICAL QID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Urinary Tract Infection 
s/p kidney transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for abdominal pain, and you 
were found to have an infection in your urine. You were started 
on IV antibiotics, and you improved. You are being discharged 
with more antibiotics that you will take by mouth as prescribed. 

Best wishes for a speedy recovery,
Your ___ Medicine team
 
Followup Instructions:
___